US05665718
3.82 g (23.5 mmol) of 1,1'-carbonyldiimidazole were added to a solution of 3.85 g (21.9 mmol) of BOC-glycine in 45 ml of dimethylformamide and the mixture was stirred at 50° for 30 minutes. Subsequently, 5.7 g (20.56 mmol) of (E)- and/or (Z)-3-(aminohydroxyimino-methyl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one were added thereto and the mixture was stirred at 90° for 15 hours. The brown solution obtained was evaporated in a high vacuum and the brown residue obtained was chromatographed (silica gel, methylene chloride/methanol 10:1). There were obtained 7.2 g (84%) of not quite pure 3-(5-BOC-aminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one as a colourless foam, Rf=0.28 (silica gel, methylene chloride/methanol 10:1).

reactant | 1,1'-carbonyldiimidazole | 23.5 mmol, 3.82 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | BOC-glycine | 21.9 mmol, 3.85 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | (Z)-3-(aminohydroxyimino-methyl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one | N\C(\C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C)=N/O | C11H11N5O2S
reactant | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 3-(5-BOC-aminomethyl-1,2,4-oxadiazol-3-yl)-5-methyl-5,6-dihydro-4H-imidazo[1,5-a]thieno[2,3-f][1,4]diazepin-6-one | C(=O)(OC(C)(C)C)C1=NC(N(O1)CN)C=1N=CN2C1CN(C(C1=C2C=CS1)=O)C | C18H22N6O4S
